US07071182B2
To a mixture of 6-nitroindazole (10.0 g, 61 mmol) and K2CO3 (9.31 g, 67.5 mmol) in DMF (60 mL) at room temperature was added 2-bromoacetaldehyde dimethylacetal (7.98 mL, 67.5 mmol), after which the mixture was heated to 50 C for 18 hours. The mixture was cooled to room temperature, diluted with diethyl ether (60 mL) and H2O (50 mL) and extracted with diethyl ether (3×50 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure to an orange oil. The residue was purified by MPLC (SiO2, 9:1 Hexane:ethyl acetate to 4:1 Hexane:ethyl acetate) to provide 1-(2,2-dimethoxyethyl)-6-nitro-1H-indazole as an orange oil. 1H NMR (300 MHz, DMSO-D6) δ ppm 3.27 (s, 6 H), 4.71 (d, J=4.75 Hz, 2 H), 4.79 (m, 1 H), 7.97 (m, 2 H), 8.34 (s, 1 H), and 8.76 (s, 1 H); MS (ESI) 252 (M+H)+.

reactant | 6-nitroindazole | 61 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | K2CO3 | 67.5 mmol, 9.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoacetaldehyde dimethylacetal | 67.5 mmol, 7.98 mL | COC(CBr)OC | C4H9BrO2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | H2O | 50 mL | O | H2O
product | 1-(2,2-dimethoxyethyl)-6-nitro-1H-indazole | COC(CN1N=CC2=CC=C(C=C12)[N+](=O)[O-])OC | C11H13N3O4
